US06552049B2
[8-Allyl-7-(benzyloxy)-2.3-dihydro-1,4-bezodioxin-2-yl]methyl 4-methylbenzenesulfonate
To a solution of 15.6 g (50.0 mmole) of [(2S)-8-allyl-7-(benzyloxy)-2,3-dihydro-1,4-benzodioxin-2-yl]methanol in 100 mL of methylene chloride was added 26.3 mL (0.15 mole) of N,N-diisopropylethylamine, 0.63 g (5 mmole) of 4-dimethylaminopyridine and 14.25 g (75.0 mmole) of p-toluenesulfonyl chloride. The mixture was stirred at room temperature under nitrogen for 15 hours. The solvent was then removed in vacuum and the residue column chromatographed on silica gel with methylene chloride as eluant. Combination of the product fractions and concentration in vacuum gave 18.0 g (77%) of the (R)-enantiomer of the title compound as a white solid, m.p. 76-77° C.

reactant | [(2S)-8-allyl-7-(benzyloxy)-2,3-dihydro-1,4-benzodioxin-2-yl]methanol | 50.0 mmole, 15.6 g | C(C=C)C1=C(C=CC2=C1O[C@H](CO2)CO)OCC2=CC=CC=C2 | C19H20O4
reactant | N,N-diisopropylethylamine | 0.15 mole, 26.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | p-toluenesulfonyl chloride | 75.0 mmole, 14.25 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5 mmole, 0.63 g | CN(C1=CC=NC=C1)C | C7H10N2
product | [8-Allyl-7-(benzyloxy)-2.3-dihydro-1,4-bezodioxin-2-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C(=C(C=C2)OCC2=CC=CC=C2)CC=C | C26H26O6S
